US04707488
C: Methyl N-(2,6-dichlorobenzyl)dithiocarbamate
2,6-Dichlorobenzylamine (0.020 mol) was reacted with carbon disulfide (0.020 mol) and iodomethane (0.019 mol) substantially as described in Example 1B above to obtain 1.5 g (32%) white crystals: mp 47°.

reactant | 2,6-Dichlorobenzylamine | 0.020 mol | ClC1=C(CN)C(=CC=C1)Cl | C7H7Cl2N
reactant | carbon disulfide | 0.020 mol | C(=S)=S | CS2
reactant | iodomethane | 0.019 mol | IC | CH3I
product | Methyl N-(2,6-dichlorobenzyl)dithiocarbamate | 1.5 g, 32% | ClC1=C(CNC(SC)=S)C(=CC=C1)Cl | C9H9Cl2NS2
